US04430346
Into 6.5 ml of dimethylformamide, was dissolved 676 mg of (S)-7-guanidino-3-hydroxyheptanamide hydrochloride followed by the addition of 1.9 ml of pyridine and 3.7 ml of n-butyric anhydride. The mixture was heated at 50° C for 24 hours. The reaction mixture was admixed with 20 ml of ice water, the separated oil layer was removed therefrom, and the aqueous layer was subjected to chromatography similarly to Example 2, using successively CM-Sephadex® C-25 and Sephadex® LH-20 to obtain 603 mg of (S)-7-guanidino-3-butyryloxyheptanamide hydrochloride. NMR: 0.92 (CH3), 1.2-2.0 (CH2 x4), 2.28 (COCH2), 2.50 (CH2), 3.18 (CH2), 5.24 (CH).

reactant | dimethylformamide | 6.5 ml | CN(C=O)C | C3H7NO
reactant | (S)-7-guanidino-3-hydroxyheptanamide hydrochloride | 676 mg | Cl.N(C(=N)N)CCCC[C@@H](CC(=O)N)O
reactant | n-butyric anhydride | 3.7 ml | C(CCC)(=O)OC(CCC)=O | C8H14O3
solvent | pyridine | 1.9 ml | N1=CC=CC=C1 | C5H5N
product | (S)-7-guanidino-3-butyryloxyheptanamide hydrochloride | 603 mg | Cl.N(C(=N)N)CCCC[C@@H](CC(=O)N)OC(CCC)=O | InChI=1S/C12H24N4O3.ClH/c1-2-5-11(18)19-9(8-10(13)17)6-3-4-7-16-12(14)15;/h9H,2-8H2,1H3,(H2,13,17)(H4,14,15,16);1H/t9-;/m0./s1
